US08557807B2
An oven-dried 100 mL round-bottom flask was charged with a magnetic stirring bar, tetrahydrofuran (10 mL) and lithium diisopropylamide (2.0M in hexanes, 6.9 mL, 13.8 mmol). The mixture was magnetically stirred and cooled to 0° C. under argon gas. 1-(2-Hydroxybiphenyl-3-yl)ethanone (0.92 g, 4.34 mmol) was added, and the reaction was stirred at 0° C. for 1 hour. A solution of methyl tetrahydro-2H-pyran-4-carboxylate (1.0 g, 6.94 mmol) in tetrahydrofuran (2 mL) was added dropwise over 5 minutes and the reaction was allowed to warm to room temperature overnight. The reaction was quenched by the addition of aqueous 10% hydrochloric acid solution (20 mL) until pH=3. The resulting solution was transferred to a separatory funnel, diluted with water (80 mL), and extracted three times with dichloromethane (100 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated in vacuo to give crude 1-(2-hydroxybiphenyl-3-yl)-3-(tetrahydro-2H-pyran-4-yl)propane-1,3-dione as a brown oil. The crude product was used as is without further purification.

reactant | lithium diisopropylamide | 13.8 mmol, 2.0M, 6.9 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(2-Hydroxybiphenyl-3-yl)ethanone | 4.34 mmol, 0.92 g | OC1=C(C=CC=C1C(C)=O)C1=CC=CC=C1 | C14H12O2
reactant | methyl tetrahydro-2H-pyran-4-carboxylate | 6.94 mmol, 1.0 g | O1CCC(CC1)C(=O)OC | C7H12O3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(2-hydroxybiphenyl-3-yl)-3-(tetrahydro-2H-pyran-4-yl)propane-1,3-dione | OC1=C(C=CC=C1C(CC(=O)C1CCOCC1)=O)C1=CC=CC=C1 | C20H20O4
